US09238640B2
Lithium aluminum hydride (3.38 g, 89.0 mmol) in anhydrous THF (100 mL) was cooled to −30° C. 2-[2-(Tetrahydro-pyran-2-yloxy)-ethyl]-1H-indole-5-carboxylic acid methyl ester (13.5 g, 44.5 mmol) in anhydrous THF (100 mL) was added dropwise. The reaction mixture was stirred at −20° C. for 1 hour and then at room temperature for 4 hours. The reaction mixture was cooled to 0° C. and water (6 mL) was added slowly. Ammonium chloride solution (200 mL) was added and extracted with ethyl acetate (2×200 mL). The organic phase was washed with water (100 mL), then brine (100 mL), and dried over anhydrous sodium sulfate. The solvent was evaporated to give {2-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-indol-5-yl}-methanol as a white solid. Yield: 11.50 g (94%).

reactant | Lithium aluminum hydride | 89.0 mmol, 3.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-[2-(Tetrahydro-pyran-2-yloxy)-ethyl]-1H-indole-5-carboxylic acid methyl ester | 44.5 mmol, 13.5 g | COC(=O)C=1C=C2C=C(NC2=CC1)CCOC1OCCCC1 | C17H21NO4
reactant | water | 6 mL | O | H2O
reactant | Ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | {2-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-indol-5-yl}-methanol | O1C(CCCC1)OCCC=1NC2=CC=C(C=C2C1)CO | C16H21NO3
